US03931407
1-(4-Acetoxy-3-carboxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole ##SPC33##
A mixture of 25.0 g. (0.075 mole) of 1-(3-carboxy-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole and 225 g. (2.25 mole) of acetic anhydride was heated under reflux for 3 hours, diluted with 200 ml. of tetrahydrofuran, and poured into 3 l. of water. An oil separated and slowly solidified. Recrystallization from acetic acid gave a tan solid, m.p. 155°-162°.

reactant | 1-(3-carboxy-4-hydroxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | 0.075 mole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2CCCCC12)C1=CC=CC=C1 | C21H19NO3
reactant | acetic anhydride | 2.25 mole | C(C)(=O)OC(C)=O | C4H6O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-(4-Acetoxy-3-carboxyphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | C(C)(=O)OC1=C(C=C(C=C1)N1C(=CC=2CCCCC12)C1=CC=CC=C1)C(=O)O | C23H21NO4
